US07727988B2
1-(3-{(1S,5R)-1-[2-fluoro-4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-5-(2-thienyl)-2,4(1H,3H)-pyrimidinedione hydrochloride (E12)
A mixture of (1S,5R)-1-[2-fluoro-4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hexane (29 mg, prepared following a similar procedure to that reported in WO 2005080382), 1-(3-chloropropyl)-5-(2-thienyl)-2,4(1H,3H)-pyrimidinedione (Prep15, 35 mg) and TEA (0.034 mL) in DMF (1.5 mL) was heated at 100° C. for 24 hours. Water was then added and the solution was extracted with dichloromethane. The organic phase was dried over Na2SO4 and concentrated in vacuo. The crude obtained was loaded over a SCX cartridge and eluted with ammonia (1M in methanol). The resulting product was further purified by silica flash chromatography (DCM/MeOH 98:2) to obtain 13 mg of the title compound as free base. To a solution of this product (13 mg) in dichloromethane (0.5 mL), HCl (1M in Et20, 1 eq) was added, the solvent was evaporated in vacuo and the material thus obtained triturated with Et2O to give 13 mg of the title compound as a yellow solid.

reactant | (1S,5R)-1-[2-fluoro-4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hexane | FC1=C(C=CC(=C1)C(F)(F)F)[C@]12CNC[C@@H]2C1 | C12H11F4N
reactant | 1-(3-chloropropyl)-5-(2-thienyl)-2,4(1H,3H)-pyrimidinedione | 35 mg | ClCCCN1C(NC(C(=C1)C=1SC=CC1)=O)=O | C11H11ClN2O2S
reactant | Water | O | H2O
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | 1-(3-{(1S,5R)-1-[2-fluoro-4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-5-(2-thienyl)-2,4(1H,3H)-pyrimidinedione hydrochloride | 13 mg | Cl.FC1=C(C=CC(=C1)C(F)(F)F)[C@]12CN(C[C@@H]2C1)CCCN1C(NC(C(=C1)C=1SC=CC1)=O)=O | InChI=1S/C23H21F4N3O2S.ClH/c24-18-9-14(23(25,26)27)4-5-17(18)22-10-15(22)11-29(13-22)6-2-7-30-12-16(19-3-1-8-33-19)20(31)28-21(30)32;/h1,3-5,8-9,12,15H,2,6-7,10-11,13H2,(H,28,31,32);1H/t15-,22-;/m0./s1
